US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.38 g, 2.09 mmol) in acetonitrile (4.4 mL) was treated with N,N-diisopropylethylamine (0.33 mL, 2.02 mmol). After addition was complete, the mixture was stirred at 60° C. for 1.3 h. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (0.33 mL, 2.02 mmol) and acetonitrile (4.4 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of 4-bromo-3-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-but-2-enoic acid ethyl ester (639 mg, 1.88 mmol) in acetonitrile (4.4 mL). After the addition was complete, the reaction mixture was heated to 100° C. where it stirred overnight. At this time, the reaction mixture was cooled to 25° C. and concentrated in vacuo. The residue was diluted with dichloromethane (100 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, rinsed with dichloromethane and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 15-50% ethyl acetate/hexanes) afforded impure (S)-4-methyl-2-[2-oxo-4-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester (102 mg, 15%) as an orange/red oil. The material was used without further purification.

reactant | (L)-leucine methyl ester hydrochloride | 2.09 mmol, 0.38 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 2.02 mmol, 0.33 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 2.02 mmol, 0.33 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-but-2-enoic acid ethyl ester | 1.88 mmol, 639 mg | C(C)OC(C=C(CBr)OC1=CC=CC=2CCCCC12)=O | C16H19BrO3
solvent | acetonitrile | 4.4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 4.4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 4.4 mL | C(C)#N | C2H3N
product | (S)-4-methyl-2-[2-oxo-4-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester | 102 mg, 15% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC=2CCCCC12)=O)=O | C21H27NO4
